US07202232B2
A solution of [4-(5-difluoromethoxy-3-trifluoromethyl-pyrazol-1-yl)-phenyl]-methanol (380 mg, 1.2 mmol) in DCM (20 mL) was treated with excess amount of MnO2 was stirred at room temperature for 24 hours. The mixture was filtered and the filtrate was concentrated under reduced pressure. Purification by chromatography (SiO2, 6:1 hexane/EtOAc) gave 4-(5-difluoromethoxy-3-trifluoromethyl-pyrazol-1-yl)-benzaldehyde (350 mg, 93% yield) as a syrup.

reactant | [4-(5-difluoromethoxy-3-trifluoromethyl-pyrazol-1-yl)-phenyl]-methanol | 1.2 mmol, 380 mg | FC(OC1=CC(=NN1C1=CC=C(C=C1)CO)C(F)(F)F)F | C12H9F5N2O2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
catalyst | MnO2 | O=[Mn]=O
product | 4-(5-difluoromethoxy-3-trifluoromethyl-pyrazol-1-yl)-benzaldehyde | 350 mg, 93% yield | FC(OC1=CC(=NN1C1=CC=C(C=O)C=C1)C(F)(F)F)F | C12H7F5N2O2
